US05889178
(S)-(3-Oxocyclopentyl)carbamic acid 1,1-dimethylethyl ester
2.5M n-Butyllithium in hexane (5.83 ml) was added dropwise to a stirred solution of 1,1,1,3,3,3-hexamethyldisilazane (3.16 ml, 15 mmol) in tetrahydrofuran (30 ml) at 4° C. After 20 min the solution was cooled to -60° C. and (S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-hexanedioic acid 1-methyl 6-(phenylmethyl) ester (1.522 g, 4.16 mmol) in tetrahydrofuran (10 ml) was added dropwise over 5 min. The solution was stirred for 10 min before the addition of pH7 buffer (5 ml) and the mixture was then diluted with dichloromethane (200 ml) and pH7 buffer (300 ml). The aqueous phase was adjusted to pH6.5 with 2M hydrochloric acid and then the organic phase was separated. The aqueous phase was extracted with dichloromethane (2×200 ml) and the combined organic phase was dried (MgSO4) then evaporated to leave a solid. The solid was dissolved in ethanol (45 ml) and hydrogenated over 10% palladium-on-carbon (0.5 g) for 4 h. The hydrogen was replaced by nitrogen and the reaction was stirred for a further 18 h then filtered through celite and the pad was washed with ethanol. The filtrate and washings were combined and evaporated to leave a solid which was purified by column chromatography on flash silica eluting with 25-40% ethyl acetate in cyclohexane to give the title compound (0.437 g) as a white solid which crystallised from isopropyl ether, m.p. 97°-98° C., [α]D -48° (CHCl3 c=0.52%).

reactant | n-Butyllithium | 2.5M | C(CCC)[Li]
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 15 mmol, 3.16 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | (S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-hexanedioic acid 1-methyl 6-(phenylmethyl) ester | 4.16 mmol, 1.522 g | C1(=CC=CC=C1)COC(CC[C@@H](CC(=O)OC)NC(=O)OC(C)(C)C)=O | C19H27NO6
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | hexane | 5.83 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethanol | 45 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | (S)-(3-Oxocyclopentyl)carbamic acid 1,1-dimethylethyl ester | 0.437 g | CC(C)(C)OC(N[C@@H]1CC(CC1)=O)=O | C10H17NO3
